US04213985
Equimolar amounts of 3-chloropropionyl chloride and 5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one in solution in dioxane were reacted to obtain 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one which melted at 216°-218° C. with decomposition.

reactant | 3-chloropropionyl chloride | ClCCC(=O)Cl | C3H4Cl2O
reactant | 5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
